US08383619B2
A mixture of methyl 2,4-dihydroxy-5-isopropylbenzoate (1.05 g, 5.0 mmol) and anhydrous potassium carbonate (828 mg, 6.0 mmol) in acetonitrile (25 ml) was treated with benzyl bromide (0.655 ml, 5.5 mmol) and the mixture was stirred at room temperature for 24 hours. The solvent was removed in vacuo and the residue was treated with water (50 ml). The solid material was collected by suction filtration, rinsed with water (2×50 ml) and sucked dry under reduced pressure to afford methyl 4-benzyloxy-2-hydroxy-5-isopropylbenzoate (1.25 g, 83%) as colourless needles. 1H NMR (DMSO-d6) 10.68 (1H, br s), 7.57 (1H, s), 7.48-7.40 (4H, m), 7.34 (1H, m), 6.64 (1H, s), 5.20 (2H, s), 3.87 (3H, s), 3.18 (1H, m), 1.17 (6H, d). MS: [M+H]+ 301.

reactant | methyl 2,4-dihydroxy-5-isopropylbenzoate | 5.0 mmol, 1.05 g | OC1=C(C(=O)OC)C=C(C(=C1)O)C(C)C | C11H14O4
reactant | potassium carbonate | 6.0 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 5.5 mmol, 0.655 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | methyl 4-benzyloxy-2-hydroxy-5-isopropylbenzoate | 1.25 g, 83% | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1C(C)C)O | C18H20O4
